US06121308
1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(hydroxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole
Prepared analogously to Example 3 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole and sodium hydroxide solution.

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C2=CC=CC=C2)CNC2=CC=C(C=C2)C(N)=N | C26H28N6O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(hydroxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)O)S(=O)(=O)C2=CC=CC=C2)CNC2=CC=C(C=C2)C(N)=N | C24H24N6O4S
